US07868014B2
(S)-[1-(5-Bromopyrimidin-2-yl)-pyrrolidin-3-yl]-(2,4-dichlorobenzyl)-amine
Combine (S)-1-(5-bromopyrimidin-2-yl)-pyrrolidine-3-amine (10.0 g, 35.84 mmol) and 30% aqueous sodium hydroxide (1.18 equiv., 4 mL) in water (30 mL), THF (75 mL), and toluene (75 mL). Separate the layers, extract the aqueous layer with 1:1 THF:toluene (50 mL). Combine the organic layers and extract with water (10 mL). Evaporate the organic layer at reduced pressure to give a residue. Combine the residue and toluene (75 mL) and evaporate at reduced pressure to give a residue. Again, combine the residue and toluene (75 mL) and evaporate at reduced pressure to give a residue Combine the residue and toluene (12.9 g) and dry THF (53.2 g), add 2,4-dichlorobenzaldehyde (0.94 equivalent, 33.6 mmol, 6.0 g), and stir. After 1 hour, add sodium triacetoxyborohydride (65.9 mmol, 2.5 equiv., 14.4 g) in 5 portions over about 50 minutes. After 22 hours, slowly add water (16 mL), Stir for 2 hours and then basify to pH=14 by addition of 30% aqueous sodium hydroxide (20 mL). Separate the aqueous layer and extract with 1/1 toluene/THF (120 mL). Combine the organic layers and extract with water (30 mL). Evaporate the solvents at reduced pressure to give a residue. Combine the residue and isopropanol (130 mL) and evaporate at reduced pressure to give a residue. Twice more, combine the residue and isopropanol (130 mL) and evaporate at reduced pressure to give a mass of about 90 g. Slowly cool to room temperature and agitate for about 3 hours to give a solid. Collect the solid by filtration, rinse with isopropanol (10 mL), and dry at 40° C. under vacuum for 15 hours to give the title compound.

reactant | (S)-1-(5-bromopyrimidin-2-yl)-pyrrolidine-3-amine | 35.84 mmol, 10.0 g | BrC=1C=NC(=NC1)N1C[C@H](CC1)N | C8H11BrN4
reactant | sodium hydroxide | 4 mL, 1.18 equiv. | [OH-].[Na+]
reactant | 2,4-dichlorobenzaldehyde | 33.6 mmol, 6.0 g, 0.94 equivalent | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | sodium triacetoxyborohydride | 65.9 mmol, 14.4 g, 2.5 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | 16 mL | O | H2O
solvent | isopropanol | 130 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 130 mL | C(C)(C)O | C3H8O
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-[1-(5-Bromopyrimidin-2-yl)-pyrrolidin-3-yl]-(2,4-dichlorobenzyl)-amine | BrC=1C=NC(=NC1)N1C[C@H](CC1)NCC1=C(C=C(C=C1)Cl)Cl | C15H15BrCl2N4
